US07220734B2
Step A: 5-Cyano-1-hydroxyindane
A solution of 5-cyano-1-indanone (3.40 g, 21.63 mmol, prepared according to Reich, S. H., et. al. J. Med. Chem., 2000, 43, 1670–1683) in methanol (50 mL) was treated with sodium borohydride (0.25 g, 6.48 mmol). After stirring for 3 h, the reaction was diluted with methylene chloride (50 mL) and washed with saturated aqueous sodium bicarbonate (50 mL). The aqueous layer was further extracted with methylene chloride (2 50 mL). The extracts were combined, dried over magnesium sulfate and concentrated in vacuo. Silica gel chromatography eluting with 40% ethyl acetate/hexanes gave 2.45 g (15.40 mmol, 71%) of the title compound as a white solid: 1H NMR (500 MHz, CDCl3) δ 7.48–7.54 (m, 3H), 5.25–5.29 (m, 1H), 3.03–3.10 (m, 2H), 2.81–2.89 (m, 2H), 2.52–2.59 (m, 2H), 1.94–2.01 (m, 2H); 13C NMR (CDCl3, 125 MHz) δ 150.1, 144.2, 130.9, 128.6, 125.0, 119.1, 111.8, 75.9, 35.8, 29.5.

reactant | 5-cyano-1-indanone | 21.63 mmol, 3.40 g | C(#N)C=1C=C2CCC(C2=CC1)=O | C10H7NO
reactant | sodium borohydride | 6.48 mmol, 0.25 g | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-Cyano-1-hydroxyindane | 15.40 mmol, 2.45 g, 71% | C(#N)C=1C=C2CCC(C2=CC1)O | C10H9NO
